US05015678
4-Benzoyloxy-1-[2-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxycarbonyl)ethoxy]-2,2,6,6-tetramethylpiperidine
The title compound is prepared in 50% yield as a colorless syrup from 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine and 1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl acrylate following the general procedure of Example 12.

reactant | 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
reactant | 1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl acrylate | C(C=C)(=O)OC1CC(N(C(C1)(C)C)OC)(C)C | C13H23NO3
product | 4-Benzoyloxy-1-[2-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxycarbonyl)ethoxy]-2,2,6,6-tetramethylpiperidine | 50% yield | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OCCC(=O)OC1CC(N(C(C1)(C)C)OC)(C)C)(C)C | C29H46N2O6
